US05194602
20-Isocyano-3,3-ethylenedioxypregna-5,17(20)-dien-9α-ol
Under a nitrogen atmosphere potassium tert. butoxide (2.80 g) was added to a stirred solution of 3,3-ethylenedioxy-9α-hydroxyandrost-5-en-17-one (3.70 g) in dry tetrahydrofuran (75 ml) at 0° C. After stirring at this temperature for 10 minutes a solution of diethyl α-isocyanoethylphosphonate (8.09 g) in dry tetrahydrofuran (20 ml) was added dropwise over 45 minutes, while keeping the temperature below 3° C. The reaction mixture was stirred at 3° C. for 5 hours. Stirring was continued at room temperature for 40 hours, then the reaction mixture was poured into a mixture of water (300 ml) and saturated sodium chloride solution (225 ml) and extracted twice with diethyl ether. The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The residue was chromatographed (silica gel, toluene/acetone 5/1) to obtain the title compound (2.86 g) as a mixture of 2 diastereomers.

reactant | potassium tert. butoxide | 2.80 g | CC(C)([O-])C.[K+]
reactant | 3,3-ethylenedioxy-9α-hydroxyandrost-5-en-17-one | 3.70 g | C1OC2(CC3=CC[C@H]4[C@@H]5CCC([C@@]5(C)CC[C@@]4([C@]3(CC2)C)O)=O)OC1 | C21H30O4
reactant | diethyl α-isocyanoethylphosphonate | 8.09 g | [N+](#[C-])C(C)P(OCC)(OCC)=O | C7H14NO3P
reactant | sodium chloride | 225 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 300 ml | O | H2O
product | 20-Isocyano-3,3-ethylenedioxypregna-5,17(20)-dien-9α-ol | 2.86 g | [N+](#[C-])C(C)=C1CC[C@H]2[C@@H]3CC=C4CC5(CC[C@]4(C)[C@]3(CC[C@]12C)O)OCCO5 | C24H33NO3
